US04175203
Step A-2: Preparation of 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-propoxypentane
1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-propoxy-2-pentyne (10.8 g., 0.04 mole) is dissolved in ethyl acetate (100 ml.). 5% Palladium on carbon is added and the mixture is hydrogenated on the Parr apparatus at an initial pressure of 41 lbs./in2 and 25° C. When 0.08 mole of hydrogen is absorbed, the catalyst is removed by filtration and the solvent is evaporated under vacuum to give the title compound as a light orange residual oil.

reactant | 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-propoxy-2-pentyne | 0.04 mole, 10.8 g | O1C(CCCC1)OCC#CC(COCCC)OC(C)=O | C15H24O5
reactant | hydrogen | 0.08 mole | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | [Pd] | Pd
product | 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-propoxypentane | O1C(CCCC1)OCCCC(COCCC)OC(C)=O | C15H28O5
